US08212045B2
A flask was charged with 2-methylpyridin-3-ol (3.0 g, 27.5 mmol) and DMF (100 mL). Sodium hydride (0.760 g, 30.2 mmol) was added and stirred for 5 minutes. 5-Bromo-3-nitropicolinonitrile (6.26 g, 27.5 mmol) was added and stirred for 10 minutes. The reaction was poured into a flask containing 300 mL saturated NH4Cl and 300 mL water with vigorous stirring. The solids were filtered and dried under high vacuum to afford 5-bromo-3-(2-methylpyridin-3-yloxy)picolinonitrile (7.78 g, 97.6% yield) as light tan solid.

reactant | 2-methylpyridin-3-ol | 27.5 mmol, 3.0 g | CC1=NC=CC=C1O | C6H7NO
reactant | Sodium hydride | 30.2 mmol, 0.760 g | [H-].[Na+]
reactant | 5-Bromo-3-nitropicolinonitrile | 27.5 mmol, 6.26 g | BrC=1C=C(C(=NC1)C#N)[N+](=O)[O-] | C6H2BrN3O2
reactant | NH4Cl | 300 mL | [NH4+].[Cl-]
solvent | water | 300 mL | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 5-bromo-3-(2-methylpyridin-3-yloxy)picolinonitrile | 7.78 g, 97.6% yield | BrC=1C=C(C(=NC1)C#N)OC=1C(=NC=CC1)C | C12H8BrN3O
